US04933355
Ethyl 5-{1-[2-(3-p-chlorophenylthioureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetate
A mixture comprising 4.8 g of 5-{1-[2-(3-p-chloro-phenylthioureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}-rhodanine-3-acetic acid, 10 g of ethanol and 50 ml of a 4N dioxane solution of hydrogen chloride was left to stand at room temperature for 4.5 days. The reaction mixture was then poured into water and extracted with ethyl acetate. The extract was washed with aqueous sodium chloride solution, and was then dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was recrystallized from a circa 1:1 by volume mixture of hexane and ethyl acetate. The resulting product was an orange powder having the following physical properties.

reactant | 5-{1-[2-(3-p-chloro-phenylthioureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}-rhodanine-3-acetic acid | 4.8 g | ClC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=S | C19H15ClN4O5S4
reactant | ethanol | 10 g | C(C)O | C2H6O
reactant | dioxane | 4N | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | Ethyl 5-{1-[2-(3-p-chlorophenylthioureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetate | ClC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)OCC)=O)=S | C21H19ClN4O5S4
